US08207216B2
To a solution of the 2-[6-(tert-butyl-diphenyl-silanyloxymethyl)-benzofuran-3-yl]-acetamide (0.36 g, 0.81 mmol) and (5-fluoro-1-methyl-1H-indol-3-yl)-oxo-acetic acid ethyl ester (0.20 g, 0.81 mmol) in dry THF (8 mL) was added a 1.0 M solution of potassium tert-butoxide in THF (6.49 mL) at 0° C. The reaction was stirred for 30 min, allowed to warm to room temperature and stirred for additional 30 min. The reaction was quenched with water, and diluted with EtOAc. The organic solution was washed with brine, then dried over Na2SO4 and concentrated. The residue was dissolved in THF and a 1.0 M solution of TBAF in THF (1.22 mL) was added at room temperature. The mixture was stirred for 2 h. The solution was quenched with NH4Cl and stirred for 5 min. The solvent was removed and the residue was dissolved in dichloromethane and washed twice with water and brine. The organic phase was dried over Na2SO4 and concentrated. The residue was purified by column chromatography (methanol:dichloromethane; 5:95 to 1:9) to give the 3-(5-fluoro-1-methyl-1H-indol-3-yl)-4-(6-hydroxymethyl-benzofuran-3-yl)-pyrrole-2,5-dione as an orange solid (0.23 g, 72%). 1H NMR (DMSO-d6, 400 MHz) 3.88 (s, 3H), 4.52 (d, J=5.7 Hz, 2H), 5.24 (t, J=5.7 Hz, 1H), 6.53 (dd, J=2.3, 10.3 Hz, 1H), 6.84 (d, J=8.1 Hz, 1H), 6.89 (d, J=8.2 Hz, 1H), 6.95 (dt, J=2.4, 9.1 Hz, 1H), 7.49 (dd, J=4.5, 9.5 Hz, 1H), 7.54 (s, 1H), 8.02 (s, 1H), 8.24 (s, 1H), 11.19 (s, 1H). 13C NMR (DMSO-d6, 100 MHz) 33.7, 63.1, 104.27, 104.31, 103.1, 106.3, 109.4, 110.5, 110.8, 111.7, 112.2, 112.3, 121.5, 121.9, 122.9, 124.5, 126.4, 126.5, 132.6, 133.9, 136.2, 140.6, 147.4, 154.9, 156.5, 172.2, 172.5.

reactant | 2-[6-(tert-butyl-diphenyl-silanyloxymethyl)-benzofuran-3-yl]-acetamide | 0.81 mmol, 0.36 g | C(C)(C)(C)[SiH2]OC(C1=CC2=C(C(=CO2)CC(=O)N)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H29NO3Si
reactant | (5-fluoro-1-methyl-1H-indol-3-yl)-oxo-acetic acid ethyl ester | 0.81 mmol, 0.20 g | C(C)OC(C(=O)C1=CN(C2=CC=C(C=C12)F)C)=O | C13H12FNO3
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 6.49 mL | C1CCOC1 | C4H8O
product | 3-(5-fluoro-1-methyl-1H-indol-3-yl)-4-(6-hydroxymethyl-benzofuran-3-yl)-pyrrole-2,5-dione | 0.23 g, 72% | FC=1C=C2C(=CN(C2=CC1)C)C=1C(NC(C1C1=COC2=C1C=CC(=C2)CO)=O)=O | C22H15FN2O4
